US08222243B2
1-{5-[4-methyl-5-(trifluoromethyl)isoxazol-3-yl]thien-2-yl}ethanone
Prepared from 4-Methyl-3-thiophen-2-yl-5-trifluoromethyl-isoxazole and 2-acetoxybenzoyl chloride by the method described in Example 3. Crude product was chromatographed on silica gel with EtOAc/hexanes (15 then 25%) as eluant to afford product as a tan colored solid (80 mg, 58%). 1H NMR (CDCl3) 2.39 (d, J=1.3, 3 H), 3.62 (s, 3 H), 7.57 (d, J=4.0, 1 H), 7.74 (d, J=4.0, 1 H). 19F NMR −63.1. LC/MS 7.82 min, [M+1]+ 276.

reactant | 4-Methyl-3-thiophen-2-yl-5-trifluoromethyl-isoxazole | CC=1C(=NOC1C(F)(F)F)C=1SC=CC1 | C9H6F3NOS
reactant | 2-acetoxybenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
product | 1-{5-[4-methyl-5-(trifluoromethyl)isoxazol-3-yl]thien-2-yl}ethanone | 80 mg, 58% | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(C)=O | C11H8F3NO2S
